US06248772B1
After 8.58 g (89.8 mmol) of guanidine hydrochloride was added to 70 ml of a methanol solution of 4.85 g (89.8 mmol) of sodium methoxide, the mixture was stirred at room temperature. The precipitated sodium chloride was filtered off to obtain the solution. Then 1.70 g (8.97 mmol) of methyl 1-methyl-2-indole-carboxylate was added to the thus obtained solution. Subsequently methanol was distilled off under reduced pressure. The resulting residue was heated at 130° C. for minutes and then allowed to stand at room temperature for an hour. Thereafter water was poured onto the reaction solution and the mixture was extracted three times with ethyl acetate. The combined extracts were washed with water. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was isolated and purified by silica gel column chromatography to give the desired 1-methyl-2-indoloylguanidine. The compound was dissolved in chloroform and treated with hydrogen chloride/ether. Thus 0.70 g (30.8%) of 1-methyl-2-indoloylguanidine hydrochloride was obtained.

reactant | guanidine hydrochloride | 89.8 mmol, 8.58 g | Cl.NC(=N)N
reactant | sodium methoxide | 89.8 mmol, 4.85 g | C[O-].[Na+]
reactant | methyl 1-methyl-2-indole-carboxylate | 8.97 mmol, 1.70 g | CN1C(=CC2=CC=CC=C12)C(=O)OC | C11H11NO2
solvent | methanol | 70 ml | CO | CH4O
product | 1-methyl-2-indoloylguanidine | CNC(=NC(=O)C=1NC2=CC=CC=C2C1)N | C11H12N4O
